US04447441
A mixture of ethyl 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyrate (0.2 g.), ethanolamine (0.5 ml.) and MeOH (5 ml.) was heated under reflux for 48 hours and then evaporated to dryness. Water was added to the residue, and the mixture extracted with EtOAc. The extract was dried and evaporated to dryness and the residue recrystallised from a small volume of EtOAc to give N-(2-hydroxyethyl)-4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyramide (0.12 g.), m.p. 148°-150°.

reactant | ethyl 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyrate | 0.2 g | FC(CN=C(NC1=NC(=NC=C1)SCCCC(=O)OCC)N)(F)F | C13H18F3N5O2S
reactant | ethanolamine | 0.5 ml | C(O)CN | C2H7NO
solvent | MeOH | 5 ml | CO | CH4O
product | N-(2-hydroxyethyl)-4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyramide | 0.12 g | OCCNC(CCCSC1=NC=CC(=N1)NC(=NCC(F)(F)F)N)=O | C13H19F3N6O2S
